US09196836B2
<Step 4: Synthesis of 4-(3-bromophenyl)-2,8-diphenyldibenzofuran>
In a 100 mL three-neck flask were put 1.7 g (6.0 mmol) of 3-bromoiodobenzene and 2.2 g (6.0 mmol) of 2,8-diphenyldibenzofuran-4-boronic acid. The air in the flask was replaced with nitrogen. To this mixture were added 30 mL of toluene and 6.0 mL of an aqueous solution of sodium carbonate (2.0 mol/L). While the pressure was reduced, this mixture was stirred to be degassed. To this mixture was added 0.35 g (0.30 mmol) of tetrakis(triphenylphosphine)palladium(0), and the mixture was refluxed at 110° C. for 4 hours. After reaction, the aqueous layer was extracted with ethyl acetate, and the ethyl acetate solution and the organic layer were combined and washed with saturated brine. The organic layer was dried with magnesium sulfate. Then, this mixture was gravity filtered. The resulting filtrate was concentrated to give an oily substance, and the oily substance was dissolved in about 10 mL of toluene. This solution was suction-filtered through Celite (manufactured by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (manufactured by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The resulting filtrate was concentrated to give an oily substance, and hexane was added to the oily substance. The mixture was irradiated with ultrasonic waves, whereby a solid was precipitated. This solid was collected by suction filtration to give 1.2 g of a white powder in 44% yield, which was the substance to be produced.

reactant | 3-bromoiodobenzene | 6.0 mmol, 1.7 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | 2,8-diphenyldibenzofuran-4-boronic acid | 6.0 mmol, 2.2 g | C1(=CC=CC=C1)C1=CC2=C(OC3=C2C=C(C=C3)C3=CC=CC=C3)C(=C1)B(O)O | C24H17BO3
reactant | sodium carbonate | 2.0 mol/L | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | about 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.30 mmol, 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-bromophenyl)-2,8-diphenyldibenzofuran | 1.2 g, 44% yield | BrC=1C=C(C=CC1)C1=CC(=CC2=C1OC1=C2C=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H19BrO
